US07262212B2
2-Chloro-4-nitro-1H-imidazole (1 g, 6.78 mmol), 2-methyloxiran-2-ylmethyl paratoluenesulfonate (2.46 g, 10.15 mmol), benzyl(triethyl) ammonium chloride (1.50 mg, 0.66 mmol) and acetonitrile (10 ml) were stirred under reflux for 8 hours. The reaction mixture was allowed to return to room temperature, diluted with ethyl acetate. The organic phase was washed with a saturated aqueous sodium bicarbonate solution twice, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/ethyl acetate=6/1) to afford 2-chloro-1-[2-hydroxy-2-methyl-3-(4-methylbenzenesulfonyloxy)propyl]-4-nitroimidazole (1.86 g, yield 70%) as a light yellow oil.

reactant | 2-Chloro-4-nitro-1H-imidazole | 6.78 mmol, 1 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 2-methyloxiran-2-ylmethyl paratoluenesulfonate | 10.15 mmol, 2.46 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C)C | C11H14O4S
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | benzyl(triethyl) ammonium chloride | 0.66 mmol, 1.50 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-1-[2-hydroxy-2-methyl-3-(4-methylbenzenesulfonyloxy)propyl]-4-nitroimidazole | 1.86 g, yield 70% | ClC=1N(C=C(N1)[N+](=O)[O-])CC(COS(=O)(=O)C1=CC=C(C=C1)C)(C)O | C14H16ClN3O6S
